Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___.
 
Chief Complaint:
Dyspnea 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ y/o F with asthma, CAD s/p stents (reported by patient), 
COPD, PAD, HTN, who presents with shortness of breath. The 
patient was sitting at home ewhen she suddenly felt short of 
breath. She drank some water and took nebulizers which she felt 
helped some. She also has noticed hoarseness of her voice.  
She presented because her symptoms have gotten worse throughout 
the day. Denies fever/chills, sore throat. Says she does have a 
cough from asthma and noticed increased wheezing. She had an 
episode of substernal chest pain this morning that lasted ___ 
minutes that was nonextertional. No radiation to jaw, arm, or 
back. It resolved without any intervention. She reported some 
leg swelling but says that has resolved. She denies PND, 
orthopnea.  

In the ED, initial vitals were:
96.5 77 143/68 22 97% RA  

Labs were notable for: 
- Labs were significant for neg trop x1, normal CBC, normal 
chemistry panel.  
- CXR was negative. EKG shows LBBB consistent with prior.  

Patient was given:
The patient was given albuterol/ipra nebs, prednisone 60 mg x 1.

Consults:
ED spoke with Dr. ___ wanted admission for stress test 
in morning. ED did not feel she is CDU candidate given she is on 
theophylline and would require more than one day in hospital.  

Vitals prior to transfer were: 71 149/73 20 94% RA  
On arrival to floor, she denies chest pain. Shortness of breath 
has improved after receiving inhalers.
 
Past Medical History:
ASTHMA/COPD/Tobacco use, Peripheral Arterial disease s/p recent 
common iliac stenting, ATRIAL TACHYCARDIA, ATYPICAL CHEST PAIN, 
CERVICAL RADICULITIS, CERVICAL SPONDYLOSIS, CORONARY ARTERY 
DISEASE  
HEADACHE, HIP REPLACEMENT, HYPERLIPIDEMIA, HYPERTENSION, 
OSTEOARTHRITIS, HERPES ZOSTER, TOBACCO ABUSE, ATRIAL 
FIBRILLATION  
ANXIETY,GASTROINTESTINAL BLEEDING, OSTEOARTHRITIS, 
ATHEROSCLEROTIC CARDIOVASCULAR DISEASE, PERIPHERAL VASCULAR 
DISEASE, CATARACT SURGERY ___  
Surgery:  
BILATERAL COMMON ILIAC ARTERY STENTING ___  
BUNIONECTOMY  
HIP REPLACEMENT  
PRIOR CESAREAN SECTION  
GANGLION CYST
 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___ 
 
Physical ___:
===================
ADMISSION PHYSICAL
===================
Vitals: 98.9 ___ 74 18 96% RA  
General: Alert, oriented, no acute distress, breathing 
comfortably  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Scattered wheezes throughout, bibasilar crackles, 
moderate air movement.  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Moves all extremities well  

==================
DISCHARGE PHYSICAL
==================
Vitals: T: 98.3 BP: 149/87 P: 83 R:18 O2: 98% ra
General: NAD
Lungs: Diffuse end expiratory wheezing. No crackles or rhonchi
CV: RRR. no M/R/G
Abdomen: NTND 
Ext: No edema 
 
Pertinent Results:
=====================
ADMISSION LABS
=====================
___ 06:15PM BLOOD WBC-5.7 RBC-4.46 Hgb-12.9 Hct-40.2 MCV-90 
MCH-28.9 MCHC-32.1 RDW-14.6 RDWSD-48.5* Plt ___
___ 06:15PM BLOOD Neuts-62.1 ___ Monos-9.4 Eos-0.3* 
Baso-0.3 Im ___ AbsNeut-3.55 AbsLymp-1.59 AbsMono-0.54 
AbsEos-0.02* AbsBaso-0.02
___ 06:15PM BLOOD Glucose-96 UreaN-15 Creat-0.9 Na-138 
K-3.8 Cl-96 HCO3-32 AnGap-14

====================
PERTINENT LABS
====================
___ 05:55AM BLOOD cTropnT-<0.01
___ 12:16AM BLOOD cTropnT-<0.01
___ 06:15PM BLOOD cTropnT-<0.01

====================
DISCHARGE LABS
====================
___ 05:55AM BLOOD WBC-4.8 RBC-4.13 Hgb-11.9 Hct-37.2 MCV-90 
MCH-28.8 MCHC-32.0 RDW-14.6 RDWSD-47.8* Plt ___
___ 05:55AM BLOOD ___ PTT-29.0 ___
___ 05:55AM BLOOD Glucose-149* UreaN-17 Creat-0.8 Na-137 
K-4.5 Cl-99 HCO3-29 AnGap-14
___ 05:55AM BLOOD Calcium-9.6 Phos-2.9 Mg-2.0

====================
EKG
====================
___ 
Baseline artifact. Probable ectopic atrial rhythm with frequent 
premature 
atrial contractions. Left bundle-branch block. Compared to the 
previous 
tracing of ___ ectopic atrial rhythm is new. 

====================
CXR
====================
___
IMPRESSION:
No acute cardiopulmonary process.
 
Brief Hospital Course:
___ y/o F with asthma, CAD s/p stents (reported by patient), 
COPD, PAD, HTN, who presents with shortness of breath and 
intermittent episode of chest pain. 

# Mild COPD exacerbation: Patient with shortness of breath at 
rest, no cough or increased sputum production. Exam with wheezes 
on examination and some improvement with nebs/pred. Lower 
suspicion for PNA given normal WBC and lack of fevers. Also no 
evidence of volume overload on examination. Since patient only 
has a mild exacerbation she will not require antibiotics. 
Paitent will recieve 5 days of predinose (last day ___ in 
addition to taking her home albuterol, fluticasone and 
tiotropoium inhalers.

# Episode of chest pain: There was a concern for ACS given 
cardiac history but trops x 2 negative. EKG with no significant 
changes from prior. The chest pain was non-exertional, resolved 
without intervention prior to arriving at the hospital, likely 
related to her COPD exacerbation.

TRANSITIONAL ISSUES:
[ ] Please confirm patient completed course of prednisone (last 
day ___ with resolution of symptoms
[ ] Consider outpatient stress testing if chest pain returns
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q4H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
3. Aspirin 81 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Diltiazem Extended-Release 180 mg PO DAILY 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN nasal 
congestion 
7. Hydrochlorothiazide 50 mg PO DAILY 
8. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
10. Multivitamins W/minerals 1 TAB PO DAILY 
11. Theophylline ER 300 mg PO BID 
12. Tiotropium Bromide 1 CAP IH DAILY 
13. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
14. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
315/200 mg oral daily 
15. cod liver oil 1,250-135 unit oral BID 
16. Atorvastatin 10 mg PO QPM 
17. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
18. Guaifenesin-CODEINE Phosphate 5 mL PO Q6H:PRN cough 
19. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
20. Ranitidine 150 mg PO BID 
21. Lorazepam 0.5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q4H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Clopidogrel 75 mg PO DAILY 
6. Diltiazem Extended-Release 180 mg PO DAILY 
7. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN nasal 
congestion 
8. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
9. Hydrochlorothiazide 50 mg PO DAILY 
10. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
12. Lorazepam 0.5 mg PO QHS:PRN insomnia 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Ranitidine 150 mg PO BID 
15. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
16. PredniSONE 40 mg PO DAILY Duration: 4 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*6 
Tablet Refills:*0
17. Theophylline ER 300 mg PO BID 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Guaifenesin-CODEINE Phosphate 5 mL PO Q6H:PRN cough 
20. cod liver oil 1,250-135 unit oral BID 
21. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
315/200 mg oral daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
COPD exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for shortness of breath and 
mild chest pain. While in the hospital we received an EKG and 
blood work which suggested that your pain was not coming from 
your heart. Your shortness of breath is likely from a COPD 
attack and we gave you steroids and breathing treatments for 
your symptoms. 

You have a follow up appointment with Dr. ___ as detailed 
below. We are also sending you home with a short course of 
steroids for your COPD. Your other medications are detailed in 
your discharge medication list.

It was a pleasure taking care of you at ___.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___